US07129268B2
{4-[3,3-Bis-(4-iodo-phenyl)-allylsulfanyl]-2-methyl-phenoxy}-acetic acid
{4-[3,3-Bis-(4-iodo-phenyl)-allylsulfanyl]-2-methyl-phenoxy}-acetic acid methyl ester (342 mg, 0.5 mmol) was dissolved in warm ethanol (20 ml). 1N NaOH was added at room temperature and the reaction mixture was stirred for 1 h after which it was evaporated. The residue was treated with 1N HCl (1.0 ml) and extracted with dichloromethane (3×20 ml). The combined organic phases were dried and evapotated to give the title compound in 320 mg (96%) yield.

reactant | {4-[3,3-Bis-(4-iodo-phenyl)-allylsulfanyl]-2-methyl-phenoxy}-acetic acid methyl ester | 0.5 mmol, 342 mg | COC(COC1=C(C=C(C=C1)SCC=C(C1=CC=C(C=C1)I)C1=CC=C(C=C1)I)C)=O | C25H22I2O3S
reactant | NaOH | 1N | [OH-].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | {4-[3,3-Bis-(4-iodo-phenyl)-allylsulfanyl]-2-methyl-phenoxy}-acetic acid | IC1=CC=C(C=C1)C(=CCSC1=CC(=C(OCC(=O)O)C=C1)C)C1=CC=C(C=C1)I | C24H20I2O3S
